US05401774
5-fluoro-2-methyl-1-(ρ-methylsulfonylbenzylidene)-3-indenyl acetic acid is prepared by adding sodium methoxide (4.4 M in MeOH, 68.5 ml, 0.3 mol) dropwise to a stirred cooled mixture of 5-fluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid (100 g, 0.281 mol) in methanol (250 ml) and acetonitrile (500 ml). Sodium bicarbonate (0.56 mol) and hydrogen peroxide (30% in water, 0.56 mol) are added and allowed to react for 18 hours at -10° C. Excess sodium bicarbonate is filtered off, and cooled filtrate (0° C.) neutralized dropwise to pH 7 with 1 M hydrochloric acid (350 ml). The resulting product is then filtered and washed with methanol. A thin layer chromatography system to check for purity utilizes chloroform:methyl isobutyl ketone (8:2); the Rf value is 0.21. A tetrahydrofuran/diisopropyl ether combination can be used for product recrystallization. Reaction yield is 89%. The product has amp of 205-206° C. (R1 =hydrogen; R2 =CH3 ; R3 =5-fluoro; R4 =hydrogen; R5 =CH3SO2 --)

reactant | sodium methoxide | 0.3 mol, 4.4 M, 68.5 ml | C[O-].[Na+]
reactant | 5-fluoro-2-methyl-1-(ρ-methylsulfinylbenzylidene)-3-indenyl acetic acid | 0.281 mol, 100 g | FC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)C)C)CC(=O)O | C20H17FO3S
reactant | Sodium bicarbonate | 0.56 mol | C([O-])(O)=O.[Na+]
reactant | hydrogen peroxide | 0.56 mol | OO | H2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 5-fluoro-2-methyl-1-(ρ-methylsulfonylbenzylidene)-3-indenyl acetic acid | yield is 89% | FC=1C=C2C(=C(C(C2=CC1)=CC1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)O | C20H17FO4S
